US07632838B2
To a 50 mL flask containing (R)-1-{4-[2-methyl-4-(2-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-phenyl}-ethanone (200 mg, 0.47 mmol) and 2.34 mL of 0.5 M TMS-CF3, was added 0.47 mL of 1.0 M tetrabutylammonium fluoride in THF at 0° C. After stirring for 4 h, the solution was diluted with saturated NaHCO3, extracted (2×CH2Cl2), washed with brine and dried over Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography to yield 1,1,1-trifluoro-2-[4-({(2R)-2-methyl-4-[2-(trifluoromethyl)phenyl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol in 31.8% yield (74.1 mg) as a colorless oil.

reactant | (R)-1-{4-[2-methyl-4-(2-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-phenyl}-ethanone | 0.47 mmol, 200 mg | C[C@H]1N(CCN(C1)C1=C(C=CC=C1)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)C(C)=O | C20H21F3N2O3S
reactant | TMS-CF3 | 0.5 M, 2.34 mL | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1.0 M, 0.47 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1,1,1-trifluoro-2-[4-({(2R)-2-methyl-4-[2-(trifluoromethyl)phenyl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol | 31.8% yield | FC(C(C)(O)C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=CC=C1)C(F)(F)F)C)(F)F | C21H22F6N2O3S
